data/oMe_Silver.jsonl
{"reaction_id": "NR-310_1-C(C)(C)C_2-CC_3-Cl_4-C(=O)OC_5-C(=O)OCC_6-OP(=O)(OCC)OCC_7-P(c1ccc(C)cc1)(c1ccc(C)cc1)c1ccc(C)cc1","level": "medium","name": "Tsuji-Trost Reaction","reactants_smiles": ["C(C)(C)CC(CC)=C(Cl)C(C(=O)OC)(C(=O)OCC)(OP(=O)(OCC)OCC)","N#CCC#N","[Pd]"],"products_smiles": ["C(C)(C)CC(CC)=C(Cl)C(C(=O)OC)(C(=O)OCC)C(C#N)C#N"],"conditions": "Ligand, Base (e.g. NaH), Pd","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "C(C(C)(C)C)(CC)=C(Cl)C([Pd](OP(=O)(OCC)OCC)(P(c1ccc(C)cc1)(c1ccc(C)cc1)c1ccc(C)cc1)(P(c1ccc(C)cc1)(c1ccc(C)cc1)c1ccc(C)cc1))(C(=O)OC)(C(=O)OCC)","step_weight": 0,"rationale": "Pd(0) coordinates to the allylic system and undergoes oxidative addition due to the good leaving group ability and stabilization of the resulting π-allyl–Pd(II) complex by conjugation."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[CH-](C#N)C#N","step_weight": 0,"rationale": "The base deprotonates malononitrile, as the α-proton is highly acidic due to strong electron-withdrawing cyano groups stabilizing the resulting carbanion."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "N#CC(C#N)C(C(=O)OC)(C(=O)OCC)/C1(Cl)[Pd](P(c1ccc(C)cc1)(c1ccc(C)cc1)c1ccc(C)cc1)(P(c1ccc(C)cc1)(c1ccc(C)cc1)c1ccc(C)cc1)C1(CC)(C(C)(C)C)","step_weight": 0,"rationale": "The nucleophilic carbanion attacks the electrophilic π-allyl–Pd complex at the less hindered terminus, favored by orbital overlap and reduced steric hindrance."},{"step": 4,"type": "dissociation","subtype": "dissociation","intermediate_smiles": "C(C)(C)CC(CC)=C(Cl)C(C(=O)OC)(C(=O)OCC)C(C#N)C#N","step_weight": 0,"rationale": "Product dissociates via reductive elimination, regenerating Pd(0) due to the thermodynamic stability of the C–C bond and the catalyst turnover requirement."}],"description": "In the Tsuji–Trost reaction, Pd(0) first undergoes oxidative addition to the allylic substrate, forming a π-allyl–Pd complex. The base deprotonates malononitrile to generate a stabilized nucleophile, which attacks the π-allyl complex. Reductive elimination releases the substituted product and regenerates Pd(0)."}
{"reaction_id": "NR-144_1-c1ccccc1_2-c1ccc(N(C)C)cc1_3-C#N_4-C_5-OCC","name": "Michael Addition","level": "medium","reactants_smiles": ["C(c1ccccc1)(c1ccc(N(C)C)cc1)=C(C#N)C(=O)OCC","S([H])C"],"products_smiles": ["S(C)C(c1ccccc1)(c1ccc(N(C)C)cc1)C(C#N)C(=O)OCC"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[S-]C","rationale": "Base abstracts the acidic proton from the thiol due to sulfur’s relatively low pKa, generating a thiolate anion with high nucleophilicity."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "S(C)C(c1ccccc1)(c1ccc(N(C)C)cc1)C(C#N)=C([O-])OCC","rationale": "The thiolate attacks the β-carbon of the α,β-unsaturated carbonyl via conjugate addition, favored by resonance stabilization of the resulting enolate."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "S(C)C(c1ccccc1)(c1ccc(N(C)C)cc1)C(C#N)C(=O)OCC","rationale": "The enolate intermediate is protonated to form the neutral thioether, driven by the thermodynamic stability of the carbonyl group."}],"description": "Under basic conditions, the thiol is deprotonated to form a strong nucleophile, which undergoes conjugate (Michael) addition to the α,β-unsaturated carbonyl. The resulting enolate intermediate is then protonated to yield the stable thioether product."}
